US04855086
4-bromophenylacetylene (10 g, 55 mmol), prepared according to Organic Reactions 5 (1), 50, (1949), in dry dimethyl sulphoxide (70 ml) was added to lithium amide (from 66 mmol) of lithium) in liquid ammonia (200 ml). The mixture was stirred for 1 hour at -30° C., 2-(2-bromoethyl)-1,3-dioxolane (10 g, 55 mmol) was added and the mixture was stirred for 2 hours at -30° C. Ammonium chloride (12 g) was added, the ammonia was allowed to evaporate and water (200 ml) was added to the residue. The emulsion was extracted with ether and the organic phase was washed with brine and dried. The solvents were removed and the product purified by dry column chromatography (silica, 5% ether in hexane 1:1 ether:hexane) to give 4.08 g (26% of theory) of 5-(4'bromophenyl)-4-pentyn-1-al ethylene acetal.

reactant | 4-bromophenylacetylene | 55 mmol, 10 g | BrC1=CC=C(C=C1)C#C | C8H5Br
reactant | lithium amide | 66 mmol | [NH2-].[Li+]
reactant | lithium | [Li] | Li
reactant | ammonia | 200 ml | N | H3N
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 55 mmol, 10 g | BrCCC1OCCO1 | C5H9BrO2
reactant | Ammonium chloride | 12 g | [Cl-].[NH4+]
solvent | dimethyl sulphoxide | 70 ml | CS(=O)C | C2H6OS
product | 5-(4'bromophenyl)-4-pentyn-1-al ethylene acetal | 4.08 g, 26% | C1COC(CCC#CC2=CC=C(C=C2)Br)O1 | C13H13BrO2
